US06355653B1
A solution of 0.20 g (0.0007 mol) 2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine in 17.5 ml dimethylsulfoxide was treated with 0.69 g (0.001 mol) potassiumhydroxide(85%) for 20 minutes at room temperature. Then 0.10 g(0.0007 mol) 4-bromo-1-butene were added and stirring was continued for 40 hours. Saturated aqueous sodiumbicarbonate was added and the mixture was extracted with ethylacetate. Evaporation of the solvent and chromatography on silicagel with dichloromethane/methanol 97/3 gave 0.04 g(17%) but-3-enyl-(2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-amine as beige crystals. MS m/e (%): 341 (M+, 21), 300 (100), 287 (65).

reactant | 2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | 0.0007 mol, 0.20 g | C1(=CC=CC=C1)C1=NN2C(C=C(C=C2N)C2=CC=NC=C2)=N1 | C17H13N5
reactant | potassiumhydroxide | 0.001 mol, 0.69 g | [OH-].[K+]
reactant | 4-bromo-1-butene | 0.0007 mol, 0.10 g | BrCCC=C | C4H7Br
reactant | sodiumbicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylsulfoxide | 17.5 ml | CS(=O)C | C2H6OS
product | but-3-enyl-(2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-amine | 0.04 g, 17% | C(CC=C)NC1=CC(=CC=2N1N=C(N2)C2=CC=CC=C2)C2=CC=NC=C2 | C21H19N5
